SFP candidate L011_2C_R100, corner 31
Rind feed lx 0.02263534
Lfilter lx out 1.32e-07
Cbypass out 0 100n
Rcap out cpos 0.0175
Cbulk cpos damp 4.84e-05
Rdamp damp 0 0.104
Vfeed feed 0 DC 3.3 AC 1
.end
